US05516806
a) 2-[3-(N-BOC-aminomethyl)-cyclobutyloxy]-1H-isoindole-1,3(2H)-dione
Analogously to Example 1 b, but using ethyl acetate/hexane mixtures (1:3 and 1:1) in the flash chromatography, starting from 15.24 g (0.0757 mol) of 3-(N-BOC-aminomethyl)-cyclobutanol, 12.35 g (0.0757 mol) of N-hydroxyphthalimide, 19.85 g (0.0757 mol) of triphenylphosphine and 13.3 ml (0.0795 mol) of diethyl azodicarboxylate (93%), the title compound, which melts at 161°-162° C. after recrystallization from ethyl acetate, is obtained. Evaporation of the mother liquor and recrystallization of the residue from ethyl acetate/hexane gives a further batch of the title compound, m.p. 145°-150° C.

reactant | 3-(N-BOC-aminomethyl)-cyclobutanol | 0.0757 mol, 15.24 g | C(=O)(OC(C)(C)C)NCC1CC(C1)O | C10H19NO3
reactant | N-hydroxyphthalimide | 0.0757 mol, 12.35 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 0.0757 mol, 19.85 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.0795 mol, 13.3 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2-[3-(N-BOC-aminomethyl)-cyclobutyloxy]-1H-isoindole-1,3(2H)-dione | C(=O)(OC(C)(C)C)NCC1CC(C1)ON1C(C2=CC=CC=C2C1=O)=O | C18H22N2O5
